US03979513
Methyl lithium in ether (5 ml., 1.5M) is added dropwise with stirring under nitrogen to 4-hydroxy-1'-methyl-10-oxo-9,10-dihydroanthracene-9-spiro-4'-piperidine (0.7 g.) in dry ether (25 ml.) and the mixture is stirred for 1 hour then diluted with water, acidified (2N hydrochloric acid), basified with sodium carbonate, and extracted with ethyl acetate. The ethyl acetate extract is washed with water and with brine, dried (MgSO4), evaporated, and the residue is recrystallised from ethanol to give 4,10-dihydroxy-1',10-dimethyl-9,10-dihydroanthracene-9-spiro-4'-piperidine, m.p. 151°-154°C.

reactant | Methyl lithium | C[Li]
reactant | 4-hydroxy-1'-methyl-10-oxo-9,10-dihydroanthracene-9-spiro-4'-piperidine | 0.7 g | OC1=CC=CC2=C1C(C1=CC=CC=C1C21CCN(CC1)C)=O | C19H19NO2
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ether | 1.5M, 5 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 4,10-dihydroxy-1',10-dimethyl-9,10-dihydroanthracene-9-spiro-4'-piperidine | OC1=CC=CC2=C1C(C1=CC=CC=C1C21CCN(CC1)C)(C)O | C20H23NO2
